US06762321B2
9.40 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide (20.1 mmol), 3.72 g (22.1 mmol) of 48% hydrobromic acid and 95 ml of acetic acid were mixed and stirred at 80° C. for 1.5 hours. The solvent was distilled off from the reaction mixture under reduced pressure and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 4.55 g of 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acrylamide (the present compound 1452).

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-difluoromethoxy-2-(4-methylphenyl)acrylamide | 20.1 mmol, 9.40 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=COC(F)F)C1=CC=C(C=C1)C)=O)OC | C27H27F2NO4
reactant | hydrobromic acid | 22.1 mmol, 3.72 g | Br | BrH
solvent | acetic acid | 95 ml | C(C)(=O)O | C2H4O2
product | 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acrylamide | 4.55 g | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)O)OC)C1=CC=C(C=C1)C)F | C20H21F2NO4
